US08003796B2
Step B. Preparation of 4-hydroxy-5-phenylpyridin-2(1H)-one
A suspension of palladium on carbon (480 mg, 50 wt % wet, 0.451 mmol) and 6-chloro-4-hydroxy-5-phenylpyridin-2(1H)-one (1000 mg, 4.51 mmol) in EtOH (40 mL) was placed under a hydrogen balloon and stirred at 60° C. After stirring under hydrogen for 30 h, the mixture was filtered while hot through a pad of CELITE® 545 filter aid and rinsed with hot ethanol. The filtrate was concentrated to give 490 mg crude product as a yellow solid. MS (ESI) 188 (M+H).

reactant | 6-chloro-4-hydroxy-5-phenylpyridin-2(1H)-one | 4.51 mmol, 1000 mg | ClC1=C(C(=CC(N1)=O)O)C1=CC=CC=C1 | C11H8ClNO2
catalyst | palladium on carbon | 0.451 mmol, 480 mg | [Pd] | Pd
solvent | EtOH | 40 mL | CCO | C2H6O
product | 4-hydroxy-5-phenylpyridin-2(1H)-one | 490 mg | OC1=CC(NC=C1C1=CC=CC=C1)=O | C11H9NO2
